US07504401B2
(6-benzyloxy-pyridin-3-yl)-[3-bromo-5-(4-methoxy-benzyloxy)-phenyl]-amine. A dry tube was charged with 6-benzyloxy-pyridin-3-ylamine (68 mg, 0.34 mmol), 1,3-dibromo-5-(4-methoxy-benzyloxy)-benzene (126 mg, 0.34 mmol), NaOtBu (46 mg, 0.48 mmol), Pd2(dba)3 (3.1 mg, 0.0034 mmol), BINAP (6.3 mg, 0.01 mmol) and degassed toluene (2 mL). The tube was heated in a microwave reactor at 120° C. for 1 h. After cooling down to room temperature, the reaction mixture was loaded directly on Celite®. Chromatographic purification afforded 6-benzyloxy-pyridin-3-yl)-[3-bromo-5-(4-methoxy-benzyloxy)-phenyl]-amine as a yellow oil (78.8 mg, 47%).

reactant | (6-benzyloxy-pyridin-3-yl)-[3-bromo-5-(4-methoxy-benzyloxy)-phenyl]-amine | C(C1=CC=CC=C1)OC1=CC=C(C=N1)NC1=CC(=CC(=C1)OCC1=CC=C(C=C1)OC)Br | C26H23BrN2O3
reactant | 6-benzyloxy-pyridin-3-ylamine | 0.34 mmol, 68 mg | C(C1=CC=CC=C1)OC1=CC=C(C=N1)N | C12H12N2O
reactant | 1,3-dibromo-5-(4-methoxy-benzyloxy)-benzene | 0.34 mmol, 126 mg | BrC1=CC(=CC(=C1)OCC1=CC=C(C=C1)OC)Br | C14H12Br2O2
reactant | NaOtBu | 0.48 mmol, 46 mg | CC(C)(C)[O-].[Na+]
catalyst | Pd2(dba)3 | 0.0034 mmol, 3.1 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | BINAP | 0.01 mmol, 6.3 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | [3-bromo-5-(4-methoxy-benzyloxy)-phenyl]-amine | 78.8 mg, 47% | BrC=1C=C(C=C(C1)OCC1=CC=C(C=C1)OC)N | C14H14BrNO2
